US07524840B2
(2-amino-5-chloro-4-methoxyphenyl)-(2-chlorophenyl)-methanone (Xcc) was prepared by reacting 2-chlorobenzaldehyde with 0.019 moles of 3-methoxy-4-chloro aniline in a manner analogous to Example 1. MH+/Z=296.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-methoxy-4-chloro aniline | 0.019 moles | COC=1C=C(N)C=CC1Cl | C7H8ClNO
product | (2-amino-5-chloro-4-methoxyphenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)OC)Cl)C(=O)C1=C(C=CC=C1)Cl | C14H11Cl2NO2
